US06121271
4-[2-Cyclopentyl-4-(2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenoxysulfonyl]-2-hydroxy-benzoic acid
Using 4-(2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2-cyclopentyl-phenol and 4-chlorosulphonyl-2-hydroxybenzoic acid the title compound was prepared according to the procedure in Example 1, step 9. Purification on 2% H3PO4 /MeOH treated silica gel eluting with a 0 & 10% EtOAc/hexane step gradient gave 0.66 g of the title compound as a pale yellow solid, mp 230-237° C.; 1H NMR (DMSO-d6) δ 1.30-1.35 (m, 2 H), 1.45-1.52 (m, 5 H), 1.58-1.63 (m, 3 H), 2.40 (s, 2 H), 3.05 (q, 1 H), 7.21-7.29 (m, 4 H), 7.35-7.47 (m, 4 H), 7.97 (d, 1 H), 8.03 (d, 1 H), 8.49 (s, 1 H). IR (KBr) 2950, 1675, 1390, 1190 and 850 cm-1. mass spectrum (-ESI), m/z 571 (M-H). Anal. Calcd. for C32H28O6S2.0.2H2O: C, 66.69; H, 4.97 N, 0.00. Found: C, 66.69; H, 5.01 N, 0.03.

reactant | 4-(2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2-cyclopentyl-phenol | CC1=C(C2=C(S1)C=C1C=CC=CC1=C2C2=CC(=C(C=C2)O)C2CCCC2)C | C25H24OS
reactant | 4-chlorosulphonyl-2-hydroxybenzoic acid | ClS(=O)(=O)C1=CC(=C(C(=O)O)C=C1)O | C7H5ClO5S
product | 4-[2-Cyclopentyl-4-(2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenoxysulfonyl]-2-hydroxy-benzoic acid | C1(CCCC1)C1=C(OS(=O)(=O)C2=CC(=C(C(=O)O)C=C2)O)C=CC(=C1)C1=C2C=CC=CC2=CC=2SC(=C(C21)C)C | C32H28O6S2
